US07989454B2
Step 4: 3-Benzo[1,3]dioxol-5-yl-5-benzyloxy-benzoic acid
3-Benzo[1,3]dioxol-5-yl-5-benzyloxy-benzoic acid methyl ester (14.2 g) was dissolved in 1,4-dioxane (200 mL) and then 1 M aq. NaOH (40 mL) was added. The mixture was stirred at room temperature overnight. The solvents were removed under reduced pressure and the residue was diluted with water (200 mL). It was then made acidic by addition of 10% HCl (aq.) solution and the precipitated material was collected by filtration. The solid was washed with water and dried to yield 13.2 g (97% yield) of the title compound.

reactant | 3-Benzo[1,3]dioxol-5-yl-5-benzyloxy-benzoic acid methyl ester | 14.2 g | COC(C1=CC(=CC(=C1)OCC1=CC=CC=C1)C1=CC2=C(OCO2)C=C1)=O | C22H18O5
reactant | NaOH | 1 M, 40 mL | [OH-].[Na+]
solvent | 1,4-dioxane | 200 mL | O1CCOCC1 | C4H8O2
product | 3-Benzo[1,3]dioxol-5-yl-5-benzyloxy-benzoic acid | 13.2 g, 97% yield | O1COC2=C1C=CC(=C2)C=2C=C(C(=O)O)C=C(C2)OCC2=CC=CC=C2 | C21H16O5
